US05158948
Step 1: Ethyl 4-benzyloxy-3-methoxyphenylacetate
To a solution of ethyl 4-hydroxy-3-methoxyphenylacetic acid (25 g, 120 mmol), commercially available from Aldrich Chemical Company, in acetone (150 mL) was added potassium carbonate (50 g, 360 mmol) followed by benzyl bromide (23 g, 130 mmol). The reaction mixture was stirred at ambient temperature for 15 hours and then was concentrated under reduced pressure. The residue was partitioned between 500 mL of water and 500 mL of diethyl ether. The aqueous layer was extracted with 300 mL of diethyl ether and the combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated to give 32 g of the title compound as a yellow solid. The product was carried on to the next step without purification.

reactant | ethyl 4-hydroxy-3-methoxyphenylacetic acid | 120 mmol, 25 g | C(C)C(C(=O)O)C1=CC(=C(C=C1)O)OC | C11H14O4
reactant | potassium carbonate | 360 mmol, 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 130 mmol, 23 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 150 mL | CC(=O)C | C3H6O
product | Ethyl 4-benzyloxy-3-methoxyphenylacetate | 32 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)OCC)OC | C18H20O4
